US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
Ethyl 6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (1.06 g, 3133 μmol) was dissolved in 1,4-dioxane (3133 μL) and N-ethyl-N-isopropylpropan-2-amine (1637 μL, 9400 μmol). tert-Butyl 2-aminoacetate hydrochloride (788 mg, 4700 μmol) was added, and the reaction was placed in a microwave at 140° C. for 10 minutes. The reaction mixture was then diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 50 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound as a white solid after purification via preparatory LC. MS (m/z)=424 (M+H)+.

reactant | Ethyl 6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 3133 μmol, 1.06 g | FC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1F)=O)C(=O)OCC)O | C17H16F2O5
reactant | N-ethyl-N-isopropylpropan-2-amine | 9400 μmol, 1637 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 4700 μmol, 788 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 3133 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | FC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1F)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H23F2NO6
